US09403801B2
Step 8) 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (672.6 mg, 1.55 mmol) in DCM (10 mL) was added a solution of HCl in EtOAc (10 mL, 40 mmol). The reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with saturated Na2CO3 aqueous solution, then extracted with DCM (250 mL×3). The combined organic phases were washed with brine (250 mL), dried over anhydrous Na2SO4, then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/5) to give the title compound as a beige solid (410 mg, 79.2%).

reactant | tert-butyl 5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 1.55 mmol, 672.6 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C20H28ClN7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 40 mmol, 10 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 410 mg, 79.2% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CNC2)C1 | C15H20ClN7
